US04070491
PREPARATION OF 2-ISOPROPYL-4-PHENYL-DIHYDROPYRAN
In a 500 ml three neck reaction flask equipped with stirrer, thermometer, reflux condenser and addition funnel is placed 72 gms (1 mole) of isobutyl aldehyde. The isobutyl aldehyde is heated to 66° C (reflux) and from the additional funnel, over a period of 1 hour, is added a mixture of 204 g (1 mole) of 3-phenyl-3-buten-1-yl acetate and 1 g concentrated sulfuric acid. During addition of the 3-phenyl-3-buten-1-yl acetate/sulfuric acid mixture, the reaction mass temperature increases to 80°-85° C. At the end of the addition of the mixture, the reaction mass is stirred for a period of three hours at 80°-85° C. The reaction mass is then cooled to room temperature and 100 ml of a 10% aqueous sodium hydroxide solution is added thereto with stirring, followed by 100 ml cyclohexane. The resulting mixture is transferred to a separatory funnel and the aqueous layer is removed. The organic layer is then washed with one 100 ml portion of 10% aqueous sodium chloride. The organic layer is then stripped of solvent and rushed over. To the rushed over material 4.5 gms Primol®, 0.5 gms triethanolamine and 0.1 gms of Ionox® is added. The resulting material is then distilled in an 8 plate vigreux column yielding the following fractions:

reactant | 3-phenyl-3-buten-1-yl acetate | 1 mole, 204 g | C(C)(=O)OCCC(=C)C1=CC=CC=C1 | C12H14O2
reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-phenyl-3-buten-1-yl acetate sulfuric acid | C(C)(=O)OCCC(=C)C1=CC=CC=C1.S(O)(O)(=O)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | 2-ISOPROPYL-4-PHENYL-DIHYDROPYRAN | C(C)(C)C1OC=CC(C1)C1=CC=CC=C1 | C14H18O
